US08293909B2
3-iodo-4-methylbenzoic acid.
Methyl-3-Iodo-4-methylbenzoate (3 g, 109 mmol, 1 eq) dissolved in MeOH (30 ml) was added sodium hydroxide (1.3 g, 327 mmol, 3 eq) followed by the addition of water (15 ml). The above solution was stirred at room temperature for 14 h. The solution was concentrated under vacuum, and then added water. The pH of the reaction was bought to 3 using Conc.HCl. The solid obtained was filtered and dried under vacuum. Yield: 2.7 g (96%). 1HNMR (400 MHz, DMSO-d6): δ 2.44 (s, 3H), 7.45 (d, J=8.00 Hz, 1H), 7.85 (d, J=3.18 Hz, 1H), 8.31 (s, 1H).

reactant | Methyl-3-Iodo-4-methylbenzoate | 109 mmol, 3 g, 1 eq | COC(C1=CC(=C(C=C1)C)I)=O | C9H9IO2
reactant | sodium hydroxide | 327 mmol, 1.3 g, 3 eq | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | MeOH | 30 ml | CO | CH4O
product | 3-iodo-4-methylbenzoic acid | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
